US09120791B2
(3R)-3-(4-Morpholinylmethyl)-1,2,3,4-tetrahydroisoquinoline
The procedure is as in the process of Preparation 1′, replacing the (3S)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid used in Step A by (3R)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid.

reactant | (3S)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C18H17NO4
reactant | (3R)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC=C2C[C@@H]1C(=O)O | C18H17NO4
product | (3R)-3-(4-Morpholinylmethyl)-1,2,3,4-tetrahydroisoquinoline | N1(CCOCC1)C[C@@H]1NCC2=CC=CC=C2C1 | C14H20N2O
